US05173496
3-Chloroperbenzoic acid (150mg) was added to a stirred solution of 1,2-dihydro-2-(4-butylthiophenyl)-3H-indazol-3-one (250 mg) in methylene chloride (5 ml) at 0-5° C. Stirring was continued for 15 minutes after the addition was complete. The reaction mixture was then washed with water, dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography using methylene chloride/ether (70:30 v/v) to give 1,2-dihydro-2-(4-butylsulphinylphenyl)-3H-indazol-3-one (Ex. 52) as a solid (160 mg), m.p. 168-169° C.

reactant | 3-Chloroperbenzoic acid | 150mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1,2-dihydro-2-(4-butylthiophenyl)-3H-indazol-3-one | 250 mg | C(CCC)SC1=CC=C(C=C1)N1NC2=CC=CC=C2C1=O | C17H18N2OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-2-(4-butylsulphinylphenyl)-3H-indazol-3-one | 160 mg | C(CCC)S(=O)C1=CC=C(C=C1)N1NC2=CC=CC=C2C1=O | C17H18N2O2S
